US08053013B2
N-Lactoyl-Glucosamine
Lactic acid (30 g) and glucosamine (10 g) were mixed and heated for 4 hours at 120° C. The reaction mixture was cooled and washed with ethyl acetate. The residue (25 g) was dissolved in 100 g of water.

reactant | Lactic acid | 30 g | C(C(O)C)(=O)O | C3H6O3
reactant | glucosamine | 10 g | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
product | N-Lactoyl-Glucosamine | C(C(O)C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C9H17NO7
